US04297480
233.4 g (1 mol) of 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene is added dropwise to 100 g of 37% hydrochloric acid and 200 ml of water in the course of one hour, in a manner ensuring that the temperature does not exceed 80° C. The mixture is then cooled to 20°-25° C., and 69.5 g (1.0 mol) of hydroxylamine hydrochloride is added. There is subsequently added during one hour, while cooling with a water bath, about 92 g (2.3 mols) of solid sodium hydroxide until the pH value of the aqueous solution is 10-11. The organic phase which precipitates is separated, and washed free from salt with water. Distillation yields 245 g (0.92 mol) of 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal-oxime; b.p. 158°-162° C./4 Pa; nD20 =1.4930.

reactant | 3,3-dimethyl-12-isopropyl-1-aza-1,5,9-cyclododecatriene | 1 mol, 233.4 g | CC1(C=NC(CC=CCCC=CC1)C(C)C)C | C16H27N
reactant | hydrochloric acid | 100 g | Cl | ClH
reactant | hydroxylamine hydrochloride | 1.0 mol, 69.5 g | Cl.NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 2,2-dimethyl-11-isopropyl-11-amino-undeca-4,8-dienal-oxime | 0.92 mol, 245 g | CC(C=NO)(CC=CCCC=CCC(N)C(C)C)C | C16H30N2O
